US07745641B2
In a similar manner to Step 2 of Example 147, 4-[3-(tert-butoxycarbonylamino)propoxy]-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (104 mg, 0.188 mmol) was dissolved in acetonitrile (5.2 mL), and the solution was treated with 3-hydroxypiperidine (76.0 mg, 0.752 mmol), acetic acid (0.215 mL, 3.76 mmol) and sodium triacetoxyborohydride (160 mg, 0.752 mmol). The reaction mixture was added with 1 mol/L hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium carbonate solution and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to obtain 4-[3-(tert-butoxycarbonylamino)propoxy]-7-[1-(tert-butoxycarbonyl)-5-(3-hydroxypiperidinomethyl)indol-2-yl]isoindolinone (40.9 mg, yield 34%).

reactant | 4-[3-(tert-butoxycarbonylamino)propoxy]-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 0.188 mmol, 104 mg | C(C)(C)(C)OC(=O)NCCCOC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C30H35N3O7
reactant | 3-hydroxypiperidine | 0.752 mmol, 76.0 mg | OC1CNCCC1 | C5H11NO
reactant | acetic acid | 3.76 mmol, 0.215 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.752 mmol, 160 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | acetonitrile | 5.2 mL | C(C)#N | C2H3N
product | 4-[3-(tert-butoxycarbonylamino)propoxy]-7-[1-(tert-butoxycarbonyl)-5-(3-hydroxypiperidinomethyl)indol-2-yl]isoindolinone | 40.9 mg, yield 34% | C(C)(C)(C)OC(=O)NCCCOC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CC(CCC1)O)C(=O)OC(C)(C)C)=O | C35H46N4O7
